2130-07-11 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2130-7-10**] 07:30 PM
 MULTI LUMEN - START [**2130-7-10**] 10:24 PM
 ARTERIAL LINE - START [**2130-7-10**] 10:25 PM
 BLOOD CULTURED - At [**2130-7-10**] 10:49 PM
 EKG - At [**2130-7-11**] 12:41 AM
 NASAL SWAB - At [**2130-7-11**] 12:41 AM
   .
   [**7-10**]
   -ERCP demonstrated dislodged stent. Stent removed and replaced. Pt with
   cholangitis as pus and sludge were found with stent removal.
   -Pt became hypotensive (70s/40s) after procedure. She had been on neo
   drip throughout procedure. Pt was hypotensive on floor and anesthesia
   gave a neo bolus. R Subclavian CVL and A line put in.
   -Pt started on dopamine drip through PIV until central access obtained.
   Then started on levophed via Subclavian. Continued on Levo 0.04. UOP
   dropped to 20- 25cc/hr - CVP around 17. Increased levo to 0.06 and
   bolused 0.5L and 1L LR. Per surgery this AM, ok to have UOP 20cc/hr and
   MAP>70. Levo currently at 0.04.
   -transfused 1 unit RBCs after ERCP.
   Allergies:
   Penicillins
   Hives;
   Morphine
   Rash;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-7-10**] 10:45 PM
   Metronidazole - [**2130-7-11**] 05:18 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-7-10**] 11:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-7-11**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 61 (55 - 99) bpm
   BP: 113/55(78) {95/46(65) - 142/65(93)} mmHg
   RR: 14 (6 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 19 (8 - 19)mmHg
   Bladder pressure: 5 (5 - 5) mmHg
                                Total In:
                                                                  2,416 mL
                                                                  2,876 mL
   PO:
                                TF:
   IVF:
                                                                  2,041 mL
                                                                  2,526 mL
   Blood products:
                                                                    375 mL
                                                                    350 mL
   Total out:
                                                                    295 mL
                                                                    250 mL
   Urine:
                                                                    295 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,121 mL
                                                                  2,626 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 174 (174 - 174) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/37/185/21/0 (normal)
   Ve: 6.5 L/min
   PaO2 / FiO2: 463
   100% on AC 500x14 with FiO2 40% and PEEP 5 with ABG above.
 on SBT
   this AM.
   Physical Examination
   General:  intubated, mildly alert, nods in response to questions.
   Skin:  Jaundiced
   HEENT:  Sclera mildly icteric, dry mucous membranes
   Neck:  Supple, JVP not elevated
   Lungs:  Nonlabored breathing; left basilar crackles; otherwise clear to
   auscultation bilaterally
   CV:  RRR, normal S1/S2, I/VI early systolic murmur LUSB
   Abdomen:  Active BS; soft, nontender, not distended
   GU:  Foley in place
   Ext:  Warm, well-perfused; 2+ radial, 1+ DP pulses; no lower extremity
   edema
   Labs / Radiology
   218 K/uL
   8.9 g/dL
   133 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.6 mEq/L
   31 mg/dL
   107 mEq/L
   136 mEq/L
   26.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2130-7-10**]  10:48 PM
                             [**2130-7-10**]  10:55 PM
                             [**2130-7-11**]  03:08 AM
   WBC
   10.7
   12.0
   Hct
   25.7
   26.1
   Plt
   232
   218
   Cr
   1.1
   0.8
   TropT
   0.23
   TCO2
   24
   Glucose
   132
   133
   Other labs: PT / PTT / INR:15.1/25.9/1.3,
   CK / CKMB / Troponin-T:63/8/0.23 (
0.29),
   ALT / AST:79/108 (
 96/155), Alk Phos / T Bili:688 (
828)/ 9.0 (
 8.4),
   Amylase / Lipase:47/28,
   Differential-Neuts:94.0 %, Band:2.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:0.0
   %
   Ca++:7.0 mg/dL (corrected 8.28), Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   .
   [**7-10**] BCx
 pending
   [**7-10**] UCx
 pending
   [**7-10**] MRSA - pending
   Assessment and Plan
 .H/O CHOLANGITIS
   .
   #. Septic Shock:  Source most likely cholangitis as pt seen to have pus
   on ERCP with replacement of stent in CBD. Hypotension improved with
   fluid boluses and levophed. Pt still requiring pressors.  CVP approx
   17-19 although UOP low at 20-25cc/hr.
   -Per surgery, UOP> 20 cc/hr ok given her CVP is elevated and MAP has
   remained > 70.
   -Will check SvO2; if <65-70%, will transfuse to Hct >30
   -Continue Cipro/flagyl
   -Continue levophed
 wean to keep MAP >70
   -Monitor UOP with goal >20cc/hr
   -Pt
s BP may improve once off sedation and extubated
   .
   # Respiratory failure
 pt continued on ventilator due to h/o
   myasthenia [**Last Name (un) **]. Did well on current vent settings with no changes.
   -SBT this AM
   -Extubated today
   - Post-extubation, will need Q6 hour NIF and vital capacity checks.
   can be done in SICU
   .
   #. Elevated troponin - Baseline unknown. No EKG changes and no ST
   elevations.  Patient has reported CAD with recent perstantine stress
   test which was normal. Mild renal insufficiency may be contributing.
   Also likely demand ischemia secondary to hypotensive episodes earlier
   today. Sepsis can also increase troponins.
   - Trend troponin Q8 hours
   - Repeat EKG this AM to monitor for progression
   - Holding beta-blocker, statin, ASA given non-PO and hypotension
   .
   #. Acute renal failure
 Resolved with Cr 0.8 today (Baseline 1.0-1.1).
   Given poor PO intake, likely prerenal in nature; this is support by
   BUN/creatinine ratio. Also, given recent hypotensive episodes, ATN is
   also on differential.
   - Gently hydrate; pRBCs, as above, should also help
   - Hold HCTZ, lisinopril
   .
   #. Leukocytosis - Likely related to biliary/biliary tree process, as
   above. UA without evidence of UTI. No symptoms to suggest pulmonary
   pathology.
   - Management of cholangitis as above
   - F/u blood cultures
   - F/u urine culture
   .
   #. Anemia - Macrocytic. Recent ([**2130-5-24**]) B12, folate within normal
   limits. No evidence of alcohol abuse. No colonoscopy available in our
   records. Iron studies should be checked at some point.
   - Given troponin bump, would maintain hct>25
   - Continue iron supplement per home regimen
   - Guaiac stools
   .
   #. History of myasthenia [**Last Name (un) **] - Per anesthesia, patient will be
   intubated for procedure. [**Month (only) 51**] have difficulty coming off of vent given
   MG.
   - Continue pyridostigmine, imuran per home regimen once extubated
   .
   #. Atrial fibrillation - Pt did go into A-fib with dopamine infusion
   but currently in sinus rhythm. Not on anticoagulation.
   - Continue amiodarone once extubated
   - Continue ASA once extubated
   .
   #. Diabetes mellitus, type II
   - Given creatinine bump, hold metformin
   - Sliding scale insulin
   .
   #. Hypertension - Episodes of hypotension earlier today.
   - In anticipation of upcoming surgery, continue beta-blocker
   - Hold HCTZ, lisinopril, Imuran
   .
   #. Hypothyroidism
   - Continue Synthroid per home regimen once extubated
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2130-7-10**] 07:09 PM
   Multi Lumen R subclavian - [**2130-7-10**] 10:24 PM
   Arterial Line - [**2130-7-10**] 10:25 PM
   Prophylaxis:
   DVT: Heparin SC TID, pneumoboots
   Stress ulcer: famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Doctor Last Name **] (daughter), ([**Telephone/Fax (1) 9517**]
   Code status: Full code
   Disposition: ICU for now. To SICU after extubation and pending SvO2
   measurement and need for transfusion.

2130-07-11 09:55:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ERCP last PM, noted to have purulent biliary drainage and replacement
   of stent.
   Intubated electively for ERCP.
   Transient hypotension experienced during ERCP, requiring vasopressor
   (neosinephrine).
   Upon return to MICU following procedure, experienced hypotension -->
   dopamine, placement of central line, then levophed substituted for
   dopamine.
   Remains intubated.
   Received 2 U PRBC for anemia (no overt clinical bleeding).
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Hives;
   Morphine
   Rash;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2130-7-10**] 10:45 PM
   Metronidazole - [**2130-7-11**] 05:18 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-7-11**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2130-7-11**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Flowsheet Data as of  [**2130-7-11**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.3
   HR: 76 (55 - 99) bpm
   BP: 108/51(73) {95/45(64) - 142/65(93)} mmHg
   RR: 18 (6 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 17 (8 - 19)mmHg
   Bladder pressure: 5 (5 - 5) mmHg
                               Total In:
                                                                  2,416 mL
                                                                  3,146 mL
   PO:
                               TF:
   IVF:
                                                                  2,041 mL
                                                                  2,796 mL
   Blood products:
                                                                    375 mL
                                                                    350 mL
   Total out:
                                                                    295 mL
                                                                    280 mL
   Urine:
                                                                    295 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,121 mL
                                                                  2,866 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 177 (174 - 177) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 6 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.40/37/185/21/0
   Ve: 4.8 L/min
   PaO2 / FiO2: 463
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: minimal tenderness RUQ, No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   218 K/uL
   133 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.6 mEq/L
   31 mg/dL
   107 mEq/L
   136 mEq/L
   26.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2130-7-10**]  10:48 PM
                             [**2130-7-10**]  10:55 PM
                             [**2130-7-11**]  03:08 AM
   WBC
   10.7
   12.0
   Hct
   25.7
   26.1
   Plt
   232
   218
   Cr
   1.1
   0.8
   TropT
   0.23
   TCO2
   24
   Glucose
   132
   133
   Other labs: PT / PTT / INR:15.1/25.9/1.3, CK / CKMB /
   Troponin-T:63/8/0.23, ALT / AST:79/108, Alk Phos / T Bili:688/9.0,
   Amylase / Lipase:47/28, Differential-Neuts:94.0 %, Band:2.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   83 yof cholangitis, sepsis, respiratory failure.
   RESPIRATORY FAILURE -- intubated for procedure.  No evidence for lung
   pathology.  RSBI favorable.  Plan to work towards SBT and extubation
   trial.
   HYPOTENSION -- attributed to sepsis, may be in part attributable to
   sedatives.
   ANEMIA -- would replete to Hct >27.
   SEPSIS -- main concern is cholangitis (biliary obstruction).
   Responding to current level of care.
   TACHYCARDIA -- developed during dopamine infusion.  Resolved after
   discontinuing dopamine.
   ELEVATED TROPONIN -- attributable to sepsis or demand ischemia.  Doubt
   primary cardiac event/ACS.  Monitor serial troponins and ECG.
   HYPOKALEMIA -- replete to K>4.0.
   BILIARY OBSTRUCTION -- attributed to ampulary carcinoma.  Now with new
   biliary stent placed.   ERCP team to follow.
   AMPULLARY CARCINOMA -- awaiting Whipple procedure, scheduled for next
   week (once infection clears).
   [**First Name9 (NamePattern2) 9529**] [**Last Name (un) **] -- may contribute to respiriatory function.  Continue
   usual medications.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2130-7-10**] 07:09 PM
   Multi Lumen - [**2130-7-10**] 10:24 PM
   Arterial Line - [**2130-7-10**] 10:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Extubated this AM, without difficulty or complications.  Currently
   without new complaints.  Hemodynamically stable, now off vasopressor.
   Denies dyspnea, chest discomfort, increased abdominal pain.  Voice
   stronger.  States to feel much better.  Patient suitable for transfer
   back to SICU service ([**Hospital Ward Name **]) for continued care.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2130-7-11**] 15:08 ------